US05614544
A mixture of 2-acetoxy-4-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]butyronitrile (1.72 g), 6 N HCl (20 ml) and dioxane (10 ml) was heated under refluxing conditions for 3 hours. The reaction mixture was poured over water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated under reduced pressure to yield 2-hydroxy-4-[4-[3-(5-methyl-2-phenyl-4-oxazolyl) propionyl)phenyl]butyric acid as a solid substance. The solid was dissolved in ethanolic hydrogen chloride (10%, w/w, 20 ml), followed by stirring at 75°-80° C. for 2 hours. The reaction mixture was poured over water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated under reduced pressure; the residue was subjected to silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:1), 2-hydroxy-4-[4-[3-(5-methyl-2-phenyl4-oxazolyl)propionyl]phenyl]butyric acid ethyl ester (1.54 g, 88%) was obtained, which was then recrystallized from dichloromethane-isopropyl ether to yield colorless needles having a melting point of 87°-88° C.

reactant | 2-acetoxy-4-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]butyronitrile | 1.72 g | C(C)(=O)OC(C#N)CCC1=CC=C(C=C1)C(CCC=1N=C(OC1C)C1=CC=CC=C1)=O | C25H24N2O4
reactant | HCl | 6 N, 20 ml | Cl | ClH
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | water | O | H2O
product | 2-hydroxy-4-[4-[3-(5-methyl-2-phenyl-4-oxazolyl) propionyl)phenyl]butyric acid | OC(C(=O)O)CCC1=CC=C(C=C1)C(CCC=1N=C(OC1C)C1=CC=CC=C1)=O | C23H23NO5
